Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Cipro
 
Attending: ___.
 
Chief Complaint:
Light headedness
 
Major Surgical or Invasive Procedure:
Upper endoscopy
Colonoscopy

 
History of Present Illness:
Patient presented to his PCP's office this morning with a 
complaint of a 2 month history of light headedness and 
orthostatic unsteadiness, which has become worse over the last 
two weeks. In addition, he noted increasing abdominal pain, for 
which he has been taking more naproxen for. He also noted darker 
stools but no BRBPR. In the setting of these symptoms, and acute 
anemia on most recent labs, patient was referred to ED for 
further evaluation. While in the ED, patient had a positive 
stool guaiac, and was noted to be anemic to 9.6. He was given 1L 
IVF, and GI was consulted. They recommended placing patient on 
CLD w/ initiation of bowel prep overnight for plan for EGD and 
colonoscopy.

 
Past Medical History:
Diverticulosis
HTN
HLD
Thalassemia trait
IBS
OA
Schatzki's ring 
Cataract 
Chronic kidney disease (CKD) 
Iron deficiency anemia 
TIA
 
Social History:
___
Family History:
Denies any family history of cancer or bleeding disorders.
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: Temp: 97.6 (Tm 98.1), BP: 146/89 (145-168/78-92), HR: 84 
(71-94), RR: 18, O2 sat: 96% (95-98), O2 delivery: Ra
GENERAL: Alert and interactive. Pleasant and conversant. NAD.
HEENT: NCAT. PERRL, EOMI. 
CARDIAC: RRR. no m/r/g.
LUNGS: CTAB. No wheezes, rhonchi or rales. No increased work of 
breathing. 
ABDOMEN: Normal bowel sounds, non distended, non-tender to 
palpation. 
NEUROLOGIC: AOx3. CNII-XII intact. Face symmetric. ___ strength 
throughout. Sensation intact.

DISCHARGE EXAM:
===============
VITALS: Temp: 97.6 (Tm 98.1), BP: 146/89 (145-168/78-92), HR: 84
(71-94), RR: 18, O2 sat: 96% (95-98), O2 delivery: Ra
GENERAL: Alert and interactive. Pleasant and conversant. NAD.
HEENT: NCAT. PERRL, EOMI. No bruising or hematoma.
CARDIAC: RRR. no m/r/g.
LUNGS: CTAB. No wheezes, rhonchi or rales. No increased work of
breathing. 
ABDOMEN: Normal bowel sounds, non distended, non-tender to
palpation. 
NEUROLOGIC: AOx3. CNII-XII intact. Face symmetric. ___ strength
throughout. Sensation intact.
 
Pertinent Results:
ADMISSION LABS:
===============

___ 03:20PM BLOOD WBC-5.8 RBC-4.30* Hgb-9.1* Hct-29.7* 
MCV-69* MCH-21.2* MCHC-30.6* RDW-16.8* RDWSD-40.3 Plt ___
___ 07:06AM BLOOD Glucose-93 UreaN-16 Creat-1.3* Na-144 
K-4.4 Cl-105 HCO3-26 AnGap-13
___ 07:06AM BLOOD calTIBC-341 VitB12-752 Folate->20 
Ferritn-40 TRF-262

IMPORTANT INTERVAL LABS:
========================
___ 07:06AM BLOOD WBC-5.3 RBC-4.34* Hgb-9.3* Hct-29.8* 
MCV-69* MCH-21.4* MCHC-31.2* RDW-16.7* RDWSD-40.0 Plt ___
___ 07:06AM BLOOD Plt ___
___ 07:06AM BLOOD Glucose-93 UreaN-16 Creat-1.3* Na-144 
K-4.4 Cl-105 HCO3-26 AnGap-13
___ 07:06AM BLOOD calTIBC-341 VitB12-752 Folate->20 
Ferritn-40 TRF-262

DISCHARGE LABS:
===============

___ 06:55AM BLOOD WBC-5.6 RBC-4.28* Hgb-9.2* Hct-29.4* 
MCV-69* MCH-21.5* MCHC-31.3* RDW-16.8* RDWSD-40.4 Plt ___
___ 06:55AM BLOOD Plt ___
___ 06:55AM BLOOD Glucose-77 UreaN-14 Creat-1.3* Na-143 
K-4.6 Cl-105 HCO3-25 AnGap-13
___ 06:55AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.2

MICROBIO:
=========
none

IMAGING:
========
NCHCT:
1. No acute intracranial process.  No calvarial fractures. 
2. Nonspecific white matter hypodensities are most compatible 
with changes 
related to chronic microangiopathy. 

 
Brief Hospital Course:
Mr. ___ is an ___ year old male with history of thalassemia 
trait, iron deficiency anemia, HTN, HLD, and known 
diverticulosis, who presented with symptomatic anemia. He 
presented to his PCP's office with 2 months of lightheadedness 
with Hb 9.7 down from 1.4 in ___ and 12 in ___. He was 
found to have guaiac positive stool with Hb and received IVF. He 
underwent EGD that was normal and colonoscopy showing severe 
diverticulosis although no active bleed. He did not require any 
PRBC transfusions. His Hb remained stable during his 
hospitalization. He was instructed to schedule ___ with 
his outpatient gastroenterologist as he will likely need a small 
bowel capsule study for further evaluation of a potential GI 
bleed. 

TRANSITIONAL ISSUES:
=====================
New/changed/stopped medications:
[ ] None

[ ] Discharge Hb

[ ] Re-measure CBC at PCP ___ to ensure stability
[ ] Outpatient gastroenterologist to consider small bowel 
capsule study for further evaluation of potential small 
intestinal bleed. Can also consider routine colonoscopy to 
evaluate for screening polyps as indicated given his inpatient 
colonoscopy prep was unable to evaluate for this

[ ] Continue to assess at PCP ___ if ___ is indicated 
given his likely GI bleed. He was discharged on ___

ACUTE ISSUES
===================

1. GI Bleed/Acute on Chronic Microcytic Hypochromic Blood Loss 
Anemia - Patient with history of diverticulosis, thalassemia 
trait, iron deficiency anemia, who initially presented as a 
referral from his PCPs office given 2 months of of 
lightheadedness with Hb 9.7 down from 1.4 in ___ and 12 in 
___. He was found to have guaiac positive stool with Hb and 
received 1L IVF in the ED. He was started on high dose IV PPI 
and underwent EGD that was normal therefore PPI was 
discontinued. His colonoscopy showed severe diverticulosis 
although no evidence of active bleeding. Of note, the prep was 
poor and unable to screen for polyps. He did endorse naproxen 
use 4x/day for 1 month. He may have had a diverticular bleed 
that resolved prior to admission. Per GI recs, he should be 
considered for small bowel capsule study by his outpatient 
gastroenterologist at ___. His iron studies showed that he 
was iron replete. 

2. Acute on Chronic Kidney Injury:

Patient's baseline Cr ~1.4. Elevated to 1.6 on admission. 
Suspect rise secondary to hypovolemia in setting of anemia and 
poor PO intake. He received 1L IVF in ED. Exam unremarkable. 
Downtrend to 1.3 prior to discharge. 

3. Mechanical fall

Patient had Unwitnessed likely mechanical fall during 
hospitalization when he slipped on water in the bathroom. He 
denied any prodromal symptoms. CT head was obtained which was 
negative for any intracranial bleed and did not show any acute 
changes. 

===========================================================
Chronic issues:

1. Hypertension - Initially held home hypertension medications 
in setting of possible GI bleed. He was re-started on home 
amlodipine 7.5mg daily prior to discharge

2. HLD - Continued home atorvastatin.

3. History of TIA - His home ___ was initially held on 
admission due to concern for GI bleed. This was resumed prior to 
discharge. Will make transitional issue to consider indication 
for ___ at ___ ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 50 mg PO QHS 
2. Clopidogrel 75 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Finasteride 5 mg PO DAILY 
5. amLODIPine 7.5 mg PO DAILY 
6. Ranitidine 150 mg PO DAILY 
7. Doxazosin 2 mg PO DAILY 
8. DICYCLOMine 20 mg PO BID:PRN abdominal pain 
9. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Amitriptyline 50 mg PO QHS  
2.  amLODIPine 7.5 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Clopidogrel 75 mg PO DAILY  
5.  DICYCLOMine 20 mg PO BID:PRN abdominal pain  
6.  Doxazosin 2 mg PO DAILY  
7.  Finasteride 5 mg PO DAILY  
8.  Ranitidine 150 mg PO DAILY  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- Acute hemoglobin drop, possible GI bleed 
- Acute kidney injury

SECONDARY DIAGNOSIS
- Mechanical fall 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  

You came to the hospital because you had feelings of wanting to 
pass out and shortness of breath. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
In the hospital you were evaluated for a possible GI bleed. We 
used a camera to look at your stomach, intestines and colon and 
did not find any evidence active bleeding. Your colonoscopy 
showed diverticulosis however no active bleeding. On repeat labs 
your blood counts were stable. The GI team suggested following 
up outpatient to further investigate the cause of your bleeding 
with capsule endoscopy (a camera that you can swallow to 
evaluate the small bowel). You also experienced an fall. We 
performed imaging of your head that did not show any fractures 
or bleeding.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
Please continue to take all of your medications and ___ 
with your appointments as listed below.

We wish you the best!  

Sincerely,  

Your ___ Team  
 
Followup Instructions:
___